US05292452
A Grignard reagent solution prepared from 46.8 g of 1-bromo-3,4-difluorobenzene and 6 g of magnesium in 150 ml of tetrahydrofuran is added dropwise at -65° C. under nitrogen to a solution of 72.8 ml of triisopropyl borate in 200 ml of tetrahydrofuran. The mixture is stirred at -65° C. for 1 hour, warmed to 14°-20° C., treated dropwise with 100 ml of 10 percent (v/v) sulphuric acid, left to stand overnight and the separated salt is filtered off. The aqueous phase of the filtrate is separated and extracted with diethyl ether. The organic phases are combined, washed with sodium chloride solution, dried over sodium sulphate and evaporated. After boiling with hexane the residue gives 22.1 g of colourless 3,4-difluorophenylboric acid m.p. 275°-277.5° C. (sublimed).

reactant | 1-bromo-3,4-difluorobenzene | 46.8 g | BrC1=CC(=C(C=C1)F)F | C6H3BrF2
reactant | magnesium | 6 g | [Mg] | Mg
reactant | triisopropyl borate | 72.8 ml | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
reactant | sulphuric acid | S(O)(O)(=O)=O | H2O4S
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 3,4-difluorophenylboric acid | 22.1 g | FC=1C=C(C=CC1F)OB(O)O | C6H5BF2O3
